US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2-(2-phenyl[1,3]thiazolo-[3.2-b][1,2,4]triazol-6-yl)acetohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 2-(2-phenyl[1,3]thiazolo[3,2-b][1,2,4]triazol-6-yl)acetohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 28 mg of the title compound (48%) as a yellow powder in 94.7% purity by HPLC (Rt: 4.65, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2-(2-phenyl[1,3]thiazolo[3,2-b][1,2,4]triazol-6-yl)acetohydrazide | C1(=CC=CC=C1)C=1N=C2N(N1)C(=CS2)CC(=O)NN | C12H11N5OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2-(2-phenyl[1,3]thiazolo-[3.2-b][1,2,4]triazol-6-yl)acetohydrazide | 28 mg, 48% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(CC1=CSC=2N1N=C(N2)C2=CC=CC=C2)=O | C20H13IN6O2S
